US04464291
PRODUCTION OF DIMETHYL MALEATE-METHYL CYCLOPENTADIENE ADDUCT
Into a 2-liter autoclave is placed 416 grams (2.6 moles) of methyl cyclopentadiene dimer and 516 grams (4 moles) of dimethyl maleate. The autoclave is sealed and heated to 180°-225° C. at a pressure of 10 atmospheres. The autoclave is maintained at a pressure of 10 atmospheres and temperature of 225° C. for a period of two hours. At the end of the two hour period, the autoclave is cooled and opened.

reactant | methyl cyclopentadiene dimer | 2.6 moles, 416 grams | CC1=CC2C3CC(C2C1)C=C3C | C12H16
reactant | dimethyl maleate | 4 moles, 516 grams | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
product | DIMETHYL MALEATE METHYL CYCLOPENTADIENE | C(\C=C/C(=O)OC)(=O)OC.CC1=CC=CC1 | InChI=1S/C6H8O4.C6H8/c1-9-5(7)3-4-6(8)10-2;1-6-4-2-3-5-6/h3-4H,1-2H3;2-4H,5H2,1H3/b4-3-;
